US07943622B2
Step 2. Synthesis of 4-tert-butyl 1-benzyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate
A solution of diisopropylazodicarboxylate (2.67 mL, 13.5 mmol) in THF (25 mL) was added dropwise over 1 h to a solution of 4-tert-butyl 1-benzyl 2-(hydroxymethyl)piperazine-1,4-dicarboxylate (4.52 g, 12.9 mmol), 3-hydroxypyridine (1.35 g, 14.2 mmol) and triphenylphosphine (3.55 g, 13.5 mmol) in THF (75 mL) at 15° C. After complete addition, the reaction mixture was allowed to warm to rt and stir overnight. The reaction mixture was concentrated under reduced pressure and purified by column chromatography (10 to 40% EtOAc in Hexanes gradient). This gave 0.9055 g (16%) of the title compound. Rf=0.35 in 80% EtOAc/Hexanes; LC-MS: RT=9.85 min; [M+H]+=428.2.

reactant | diisopropylazodicarboxylate | 13.5 mmol, 2.67 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 4-tert-butyl 1-benzyl 2-(hydroxymethyl)piperazine-1,4-dicarboxylate | 12.9 mmol, 4.52 g | OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H26N2O5
reactant | 3-hydroxypyridine | 14.2 mmol, 1.35 g | OC=1C=NC=CC1 | C5H5NO
reactant | triphenylphosphine | 13.5 mmol, 3.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-tert-butyl 1-benzyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C23H29N3O5
